US08604224B2
[Step 1-1-1] Synthesis of 1-(2-Fluorophenyl)-2-naphthol
Into a 200 mL three-neck flask were placed 1.4 g (10 mmol) of 2-fluorophenylboronic acid, 2.2 g (10 mmol) of 1-bromo-2-naphthol, 153 mg (0.50 mmol) of tri(ortho-tolyl)phosphine, 25 mL of toluene, 25 mL of ethanol, and 5.0 mL of a 2M aqueous solution of potassium carbonate. This mixture was degassed under reduced pressure, and the air in the system was replaced with nitrogen. This mixture was stirred at 80° C., 23 mg (0.10 mmol) of palladium(II) acetate was added thereto, and the mixture was refluxed at about 100° C. for 6.5 hours. After the reflux, this mixture was washed with water, and the aqueous layer was subjected to extraction with ethyl acetate. The obtained solution of the extract and the organic layer were combined and washed with saturated brine. The obtained organic layer was dried over magnesium sulfate. This mixture was gravity-filtered, and the obtained filtrate was concentrated to give a brown oily substance. This oily substance was purified by silica gel column chromatography (developing solvent: toluene), so that 1.6 g of a brown oily substance of the object of the synthesis was obtained in 69% yield. The above-described synthesis, scheme is illustrated in the following scheme (B-1).

reactant | 2-fluorophenylboronic acid | 10 mmol, 1.4 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | 1-bromo-2-naphthol | 10 mmol, 2.2 g | BrC1=C(C=CC2=CC=CC=C12)O | C10H7BrO
reactant | tri(ortho-tolyl)phosphine | 0.50 mmol, 153 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium(II) acetate | 0.10 mmol, 23 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Fluorophenyl)-2-naphthol | 69% yield | FC1=C(C=CC=C1)C1=C(C=CC2=CC=CC=C12)O | C16H11FO
